US06077954
N-Phthalimidoethyl-3-amino-1-propanol (acetate salt)
N-Phthalimidoethyl(benzyl)-3-amino-1-propanol (4.62 g, 11.95 mmol), Pd/C 10% (1 g) and MeOH:acetic acid (95:5, v/v) (100 mL) was transferred to a 250 mL par hydrogenation flask. The flask was purged and filled with H2 three times and then left under H2 at 55 psi with shaking. The mixture absorbed 20 psi of H2 in 30 minutes. The shaking was stopped and the pressure was raised to 55 psi again. After 3 hrs the pressure was 45 psi so the pressure was increased to 55 psi once more. The reaction was complete as indicated by TLC dichloromethane:MeOH (9:1, v/v) in 4 hours. The reaction mixture was filtered though a bed of celite and the solvent evaporated under vacuo to leave a yellowish oil. The oil was purified by silica gel flash column chromatography using dichloromethane:MeOH (9:1, v/v) as the eluent. The appropriate fractions were combined and concentrated under vacuo to afford 2.51 g (68%) of the title compound as a white solid (m.p. 94-95° C.).

reactant | N-Phthalimidoethyl(benzyl)-3-amino-1-propanol | 11.95 mmol, 4.62 g | C1(C=2C(C(N1CCNCCC(O)CC1=CC=CC=C1)=O)=CC=CC2)=O | C20H22N2O3
catalyst | Pd/C | 1 g | [Pd] | Pd
solvent | MeOH acetic acid | CO.C(C)(=O)O
product | N-Phthalimidoethyl-3-amino-1-propanol | 2.51 g, 68% | C1(C=2C(C(N1CCNCCCO)=O)=CC=CC2)=O | C13H16N2O3
